US07611691B2
Synthesis of 2-[({Bis-[(1-carboxy-ethylamino)-methyl]-phosphanyl}-methyl)-amino]-propionic acid (THP-Alanine, THPAL or “thpalanine”)
As shown in Scheme II, alanine (2.15 g, 24.19 mmol) in 25 mL of distilled water was added to tris(hydroxymethyl)phosphine (1.00 g, 8.06 mmol) in water (15 mL) at 25° C. The reaction was stirred under dry nitrogen for one hour. The solvent was removed in vacuo to obtain a solid. The residue was washed in methanol (3×15 mL) and dried in vacuo to yield the analytically pure compound (THPAL) in 95% yield (2.58 g) as a white solid; ESI/MS calcd for C12H24N3O6P [M+H]+ 337.31, found 338.20; Anal. (calcd) for C12H24N3O6P: C, 42.73, H, 7.17. N 12.46. Found: C, 43.21, H, 7.54, N, 11.76; 1H NMR (D2O, 300 MHz): δ1.37 (d, 9H, —CH(CH3), 3.47 (d, 6H, P—(CH2)), 3.65 (q, 3H, —CH(CH3); 13C NMR (D2O, 75 MHz): δ14.84 (s, —CH(CH3), 42.65 (d, P—CH2, 1JP-C=12.83 Hz), 59.36 (d, CH(CH3), 3JP-C=5.30 Hz), 174.09 (s, —COOH); 31P{1H} NMR (D2O, 121.5 MHz): −39.50 (s).

reactant | alanine | 24.19 mmol, 2.15 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | tris(hydroxymethyl)phosphine | 8.06 mmol, 1.00 g | OCP(CO)CO | C3H9O3P
reactant | 174.09 | C1(=C(NC(=O)NC1=O)C(=O)O)F | C5H3FN2O4
solvent | water | 25 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 2-[({Bis-[(1-carboxy-ethylamino)-methyl]-phosphanyl}-methyl)-amino]-propionic acid | 95% yield | C(=O)(O)C(C)NCP(CNC(C)C(=O)O)CNC(C(=O)O)C | C12H24N3O6P
